US04058624
As an alternative to obtaining a mixture of Schiff bases VI and VI(a) or VI(b), which upon reduction give a mixture of product I the reaction can be conducted stepwise. For example, 1,4-diaminobutane or 4-(2-aminoethyl)piperazine may be converted to a Schiff base with 1,5-di-(4-isopropyl)-phenyl)-3-pentanone, catalytically reduced, then the resulting amine selectively cyanoethylated with acrylonitrile, followed by catalytic hydrogenation to furnish 1-(3-aminopropyl)-4-[1,5-di-(4-isopropylphenyl)-3-pentyl]diaminobutane, a spermidine derivative, or 1-(3-aminopropyl)-4-[2-{(1,5-di-(4-isopropylphenyl)-3-pentylamino}ethyl]piperazine. A primary amine can be dicyanoethylated with excess acrylonitrile, catalytically reduced to the corresponding 3,3'-substituted iminobis(propylamine) and then converted by condensation with a ketone and reduction to the N-alkylated-3,3'-substituted iminobis(proylamine). For example, dicyanoethylation of monoethanolamine followed by catalytic reduction provides 3,3'-(2-hydroxyethylimino)bis(propylamine). Condensation with 1-(2,4-dimethylphenyl)-6-(3-isopropylphenyl)-3-hexanone and subsequent catalytic hydrogenation of the --C=N bond affords 1-[1-(2,4-dimethylphenyl)-6-(3-isopropylphenyl)-3-hexyl]-5-(2-hydroxyethyl)-1,5,9-triazanonane.

reactant | spermidine | NCCCCNCCCN | C7H19N3
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | monoethanolamine | C(O)CN | C2H7NO
product | 3,3'-(2-hydroxyethylimino)bis(propylamine) | OCCN(CCCN)CCCN | C8H21N3O
